US08193228B2
Methanesulfonyl chloride (12 μL, 0.16 mmol) was added to a solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine (49 mg, 0.08 mmol) and triethylamine (24 μL, 0.17 mmol) in dichloromethane (4 mL) at ambient temperature. After stirring for 2 hr, the reaction mixture concentrated in vacuo to afford N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methanesulfonamide which was used without further purification.

reactant | Methanesulfonyl chloride | 0.16 mmol, 12 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine | 0.08 mmol, 49 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H41FN4
reactant | triethylamine | 0.17 mmol, 24 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methanesulfonamide | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)NS(=O)(=O)C)(CC)C | C42H43FN4O2S
